US07176310B1
A solution of 2-mercaptopyrimidine-5-carboxylic acid (4-fluorophenyl)amide (100 mg, 0.38 mmol) in 3 mL of ethanol was treated with aqueous NaOH (3 M, 0.28 mL, 0.84 mmol). A yellow slurry formed, which dissolved over the course of 5 min. An addition of 2-chloroacetamide (53 mg, 0.57 mmol) resulted in the formation of a white slurry. After stirring at ambient temperature for 2.5 h, the reaction was quenched with 50 mL of water and titrated to acidity with 1 M HCl. The slurry was filtered over sintered glass and washed with copious water. Drying in vacuo yielded 85 mg (70%) of 2-carbamoylmethylsulfanyl-4-methylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide. ESI-MS m/z 321 (MH+), 319 (M−H−).

reactant | 2-mercaptopyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.38 mmol, 100 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S | C11H8FN3OS
reactant | NaOH | 0.84 mmol, 3 M, 0.28 mL | [OH-].[Na+]
reactant | 2-chloroacetamide | 0.57 mmol, 53 mg | ClCC(=O)N | C2H4ClNO
reactant | ethanol | 3 mL | C(C)O | C2H6O
product | 2-carbamoylmethylsulfanyl-4-methylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 85 mg, 70% | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SCC(N)=O)C | C14H13FN4O2S
